US08729078B2
To degassed DMF (1.5 mL) were added 5-(tritylamino)-1H-pyrazole-4-carbonitrile (1.36 g, 3.89 mmol), 2-bromo-6-(6-tert-butyl-1-oxophthalazin-2(1H)-yl)benzaldehyde (1.0 g, 2.6 mmol), copper (I) iodide (494 mg, 2.6 mmol) and potassium carbonate (717 mg, 5.19 mmol). The reaction was inerted five times by alternating vacuum and a nitrogen purge and then heat to 100° C. (external); for 8 hr. TLC the following morning showed trace amounts of starting materials. The reaction was diluted with EtOAc (50 mL) and through a pad of diatomaceous earth. The pad was rinsed with additional EtOAc (50 mL) and concentrated in vacuo. The crude material was bound to silica column and purified over a 40 g silica gel cartridge, eluting the column with a 20-40% EtOAc/hexanes, isocratic hold for 5 minutes, then 40-100% EtOAc/hexanes gradient over 20 minutes. The product containing fractions were combined and concentrated to give 1-[3-(6-tert-Butyl-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-(trityl-amino)-1H-pyrazole-4-carbonitril (632 mg, 37%).

reactant | 5-(tritylamino)-1H-pyrazole-4-carbonitrile | 3.89 mmol, 1.36 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=C(C=NN1)C#N | C23H18N4
reactant | 2-bromo-6-(6-tert-butyl-1-oxophthalazin-2(1H)-yl)benzaldehyde | 2.6 mmol, 1.0 g | BrC1=C(C=O)C(=CC=C1)N1C(C2=CC=C(C=C2C=N1)C(C)(C)C)=O | C19H17BrN2O2
reactant | potassium carbonate | 5.19 mmol, 717 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper (I) iodide | 2.6 mmol, 494 mg | [Cu]I
product | 1-[3-(6-tert-Butyl-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-(trityl-amino)-1H-pyrazole-4-carbonitril | 632 mg, 37% | C(C)(C)(C)C=1C=C2C=NN(C(C2=CC1)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C#N)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C42H34N6O2
